US08871792B2
3-Methylbutyric Acid (R)-2-[N′-(5-acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-1-carboxyethyl Ester
Isovaleryl chloride (51.4 μL, 421.2 μmol) and (R)-3-[N′-(5-acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid (20.0 mg, 42.1 μmol) were combined in THF (205 μL, 2.5 mmol), and stirred overnight at room temperature. The solvent was evaporated and the residue was purified (reverse phase HPLC column) to yield the title compound (11.8 mg) as a TFA salt. MS m/z [M+H]+ calc'd for C27H28ClFN4O6, 559.17. found 559.1.

reactant | Isovaleryl chloride | 421.2 μmol, 51.4 μL | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | (R)-3-[N′-(5-acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid | 42.1 μmol, 20.0 mg | C(C)(=O)C=1C=C(NN1)C(=O)NN(CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)C[C@H](C(=O)O)O | C22H20ClFN4O5
reactant | THF | 2.5 mmol, 205 μL | C1CCOC1 | C4H8O
product | 3-Methylbutyric Acid (R)-2-[N′-(5-acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-1-carboxyethyl Ester | 11.8 mg | C(C)(=O)C=1C=C(NN1)C(=O)NN(CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)C[C@H](C(=O)O)OC(CC(C)C)=O | C27H28ClFN4O6
